* source BIN2GRAY
U_DSTM2         STIM(1,1) $G_DPWR $G_DGND CLK IO_STM IO_LEVEL=0 
+ 0 0
+ +1us 1
+REPEAT FOREVER
+ +1us 0
+  +1us 1
+ ENDREPEAT
X_Bin2Gray_01_U22A         N02308 Bin2Gray_01_QB_BAR Bin2Gray_01_N04370 $G_DPWR
+  $G_DGND 74HC00 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Bin2Gray_01_U42A         Bin2Gray_01_N05437 Bin2Gray_01_QC_BAR Bin2Gray_01_KB
+  $G_DPWR $G_DGND 74HC08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Bin2Gray_01_U23A         N02308 Bin2Gray_01_QB_BAR Bin2Gray_01_N03736 $G_DPWR
+  $G_DGND 74HC00 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Bin2Gray_01_U2A         CLK $D_HI Bin2Gray_01_JA Bin2Gray_01_KA
+  Bin2Gray_01_QA Bin2Gray_01_QA_BAR $G_DPWR $G_DGND 74HC107 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Bin2Gray_01_U12A         N02308 Bin2Gray_01_N02200 $G_DPWR $G_DGND 74HC04
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Bin2Gray_01_U25A         Bin2Gray_01_QA_BAR Bin2Gray_01_N02200
+  Bin2Gray_01_N05437 $G_DPWR $G_DGND 74HC00 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Bin2Gray_01_U3A         CLK $D_HI Bin2Gray_01_JB Bin2Gray_01_KB
+  Bin2Gray_01_QB Bin2Gray_01_QB_BAR $G_DPWR $G_DGND 74HC107 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Bin2Gray_01_U26A         Bin2Gray_01_N02200 Bin2Gray_01_JB Bin2Gray_01_QB
+  Bin2Gray_01_N03825 $G_DPWR $G_DGND 74HC10 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Bin2Gray_01_U4A         CLK $D_HI $D_HI $D_HI Bin2Gray_01_JB
+  Bin2Gray_01_QC_BAR $G_DPWR $G_DGND 74HC107 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Bin2Gray_01_U20A         N02308 Bin2Gray_01_QC_BAR Bin2Gray_01_N03784 $G_DPWR
+  $G_DGND 74HC00 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Bin2Gray_01_U27A         Bin2Gray_01_N03736 Bin2Gray_01_N03784
+  Bin2Gray_01_N03825 Bin2Gray_01_JA $G_DPWR $G_DGND 74HC10 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Bin2Gray_01_U43A         N02308 Bin2Gray_01_QA N06221 $G_DPWR $G_DGND 74HC86
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Bin2Gray_01_U21A         N02308 Bin2Gray_01_QC_BAR Bin2Gray_01_N04416 $G_DPWR
+  $G_DGND 74HC00 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Bin2Gray_01_U32A         Bin2Gray_01_N04370 Bin2Gray_01_N04416 Bin2Gray_01_KA
+  $G_DPWR $G_DGND 74HC08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U8         CLK $D_HI $D_HI $D_HI N03367 $D_LO $D_LO $D_LO $D_LO M_UN0001
+  M_UN0002 N03313 M_UN0003 M_UN0004 $G_DPWR $G_DGND 74HC161 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U5         CLK $D_HI N03313 $D_HI $D_LO $D_LO N01989 N01906 N01823 N01740
+  M_UN0005 M_UN0006 M_UN0007 N02308 $G_DPWR $G_DGND 74HC194 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U11         $D_HI CLK_BAR N02308 N02308 M_UN0008 M_UN0009 M_UN0010 M_UN0011
+  M_UN0012 M_UN0013 M_UN0014 M_UN0015 $G_DPWR $G_DGND 74HC164 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U9A         N03313 N03367 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U12A         CLK CLK_BAR $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U6         CLK $D_LO N03367 $D_HI $D_LO $D_LO $D_LO $D_LO M_UN0016 M_UN0017
+  N01989 N01906 N01823 N01740 $G_DPWR $G_DGND 74HC191 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
