* source DELAY
X_Delay_U1B         $D_LO Delay_N01828 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Delay_U1A         $D_LO Delay_N01830 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Delay_U3A         Delay_N00893 $D_HI N00240 $D_HI Delay_N00086 M_UN0001
+  $G_DPWR $G_DGND 74HC74 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Delay_U3B         $D_HI Delay_N00086 N00049 $D_HI Delay_N01424 M_UN0002
+  $G_DPWR $G_DGND 74HC74 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Delay_U1D         $D_HI Delay_N02668 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Delay_U4A         Delay_N00086 Delay_N01424 Delay_N00539 $G_DPWR $G_DGND
+  74HC7266 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Delay_U2         N00049 Delay_N00086 $D_HI $D_HI Delay_N00539 Delay_N02668
+  Delay_N02674 Delay_N01828 Delay_N01830 M_UN0003 M_UN0004 M_UN0005 M_UN0006
+  N00064 $G_DPWR $G_DGND 74HC163 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Delay_U1E         N00064 Delay_N00893 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Delay_U1C         $D_LO Delay_N02674 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM2         STIM(1,1) $G_DPWR $G_DGND N00049 IO_STM IO_LEVEL=0 
+ 0 0
+ +0 1
+REPEAT FOREVER
+ +.5uS 0
+  +.5uS 1
+ ENDREPEAT
U_DSTM1         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00240 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 7us 1  
+ 7.2us 0  
+ 17us 1 
+ 17.4us 0  
+ 19us 1  
+ 21us 0  
+ 22.3us 1  
+ 25us 0  
+ 28us 1  
+ 35us 0  
