* source FULLADDER
X_FA8bit0_FA4_0_FA0_HA1_U2A         A0 B0 FA8bit0_FA4_0_FA0_N00069 $G_DPWR
+  $G_DGND 74HC08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA8bit0_FA4_0_FA0_HA1_U3A         B0 A0 FA8bit0_FA4_0_FA0_N00105 $G_DPWR
+  $G_DGND 74HC386 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA8bit0_FA4_0_FA0_HA1_1_U2A         $D_LO FA8bit0_FA4_0_FA0_N00105
+  FA8bit0_FA4_0_FA0_N00064 $G_DPWR $G_DGND 74HC08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA8bit0_FA4_0_FA0_HA1_1_U3A         FA8bit0_FA4_0_FA0_N00105 $D_LO S0 $G_DPWR
+  $G_DGND 74HC386 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA8bit0_FA4_0_FA0_U1A         FA8bit0_FA4_0_FA0_N00064
+  FA8bit0_FA4_0_FA0_N00069 FA8bit0_FA4_0_N00334 $G_DPWR $G_DGND 74HC32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA8bit0_FA4_0_FA1_HA1_U2A         A1 B1 FA8bit0_FA4_0_FA1_N00069 $G_DPWR
+  $G_DGND 74HC08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA8bit0_FA4_0_FA1_HA1_U3A         B1 A1 FA8bit0_FA4_0_FA1_N00105 $G_DPWR
+  $G_DGND 74HC386 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA8bit0_FA4_0_FA1_HA1_1_U2A         FA8bit0_FA4_0_N00334
+  FA8bit0_FA4_0_FA1_N00105 FA8bit0_FA4_0_FA1_N00064 $G_DPWR $G_DGND 74HC08
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA8bit0_FA4_0_FA1_HA1_1_U3A         FA8bit0_FA4_0_FA1_N00105
+  FA8bit0_FA4_0_N00334 S1 $G_DPWR $G_DGND 74HC386 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA8bit0_FA4_0_FA1_U1A         FA8bit0_FA4_0_FA1_N00064
+  FA8bit0_FA4_0_FA1_N00069 FA8bit0_FA4_0_N00370 $G_DPWR $G_DGND 74HC32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA8bit0_FA4_0_FA2_HA1_U2A         A2 B2 FA8bit0_FA4_0_FA2_N00069 $G_DPWR
+  $G_DGND 74HC08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA8bit0_FA4_0_FA2_HA1_U3A         B2 A2 FA8bit0_FA4_0_FA2_N00105 $G_DPWR
+  $G_DGND 74HC386 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA8bit0_FA4_0_FA2_HA1_1_U2A         FA8bit0_FA4_0_N00370
+  FA8bit0_FA4_0_FA2_N00105 FA8bit0_FA4_0_FA2_N00064 $G_DPWR $G_DGND 74HC08
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA8bit0_FA4_0_FA2_HA1_1_U3A         FA8bit0_FA4_0_FA2_N00105
+  FA8bit0_FA4_0_N00370 S2 $G_DPWR $G_DGND 74HC386 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA8bit0_FA4_0_FA2_U1A         FA8bit0_FA4_0_FA2_N00064
+  FA8bit0_FA4_0_FA2_N00069 FA8bit0_FA4_0_N00432 $G_DPWR $G_DGND 74HC32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA8bit0_FA4_0_FA3_HA1_U2A         A3 B3 FA8bit0_FA4_0_FA3_N00069 $G_DPWR
+  $G_DGND 74HC08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA8bit0_FA4_0_FA3_HA1_U3A         B3 A3 FA8bit0_FA4_0_FA3_N00105 $G_DPWR
+  $G_DGND 74HC386 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA8bit0_FA4_0_FA3_HA1_1_U2A         FA8bit0_FA4_0_N00432
+  FA8bit0_FA4_0_FA3_N00105 FA8bit0_FA4_0_FA3_N00064 $G_DPWR $G_DGND 74HC08
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA8bit0_FA4_0_FA3_HA1_1_U3A         FA8bit0_FA4_0_FA3_N00105
+  FA8bit0_FA4_0_N00432 S3 $G_DPWR $G_DGND 74HC386 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA8bit0_FA4_0_FA3_U1A         FA8bit0_FA4_0_FA3_N00064
+  FA8bit0_FA4_0_FA3_N00069 FA8bit0_N03805 $G_DPWR $G_DGND 74HC32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA8bit0_FA4_0_U2A         FA8bit0_N03805 FA8bit0_FA4_0_N00432 V $G_DPWR
+  $G_DGND 74HC386 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA8bit0_FA4_0_1_FA0_HA1_U2A         A4 B4 FA8bit0_FA4_0_1_FA0_N00069 $G_DPWR
+  $G_DGND 74HC08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA8bit0_FA4_0_1_FA0_HA1_U3A         B4 A4 FA8bit0_FA4_0_1_FA0_N00105 $G_DPWR
+  $G_DGND 74HC386 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA8bit0_FA4_0_1_FA0_HA1_1_U2A         FA8bit0_N03805
+  FA8bit0_FA4_0_1_FA0_N00105 FA8bit0_FA4_0_1_FA0_N00064 $G_DPWR $G_DGND 74HC08
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA8bit0_FA4_0_1_FA0_HA1_1_U3A         FA8bit0_FA4_0_1_FA0_N00105
+  FA8bit0_N03805 S4 $G_DPWR $G_DGND 74HC386 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA8bit0_FA4_0_1_FA0_U1A         FA8bit0_FA4_0_1_FA0_N00064
+  FA8bit0_FA4_0_1_FA0_N00069 FA8bit0_FA4_0_1_N00334 $G_DPWR $G_DGND 74HC32
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA8bit0_FA4_0_1_FA1_HA1_U2A         A5 B5 FA8bit0_FA4_0_1_FA1_N00069 $G_DPWR
+  $G_DGND 74HC08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA8bit0_FA4_0_1_FA1_HA1_U3A         B5 A5 FA8bit0_FA4_0_1_FA1_N00105 $G_DPWR
+  $G_DGND 74HC386 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA8bit0_FA4_0_1_FA1_HA1_1_U2A         FA8bit0_FA4_0_1_N00334
+  FA8bit0_FA4_0_1_FA1_N00105 FA8bit0_FA4_0_1_FA1_N00064 $G_DPWR $G_DGND 74HC08
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA8bit0_FA4_0_1_FA1_HA1_1_U3A         FA8bit0_FA4_0_1_FA1_N00105
+  FA8bit0_FA4_0_1_N00334 S5 $G_DPWR $G_DGND 74HC386 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA8bit0_FA4_0_1_FA1_U1A         FA8bit0_FA4_0_1_FA1_N00064
+  FA8bit0_FA4_0_1_FA1_N00069 FA8bit0_FA4_0_1_N00370 $G_DPWR $G_DGND 74HC32
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA8bit0_FA4_0_1_FA2_HA1_U2A         A6 B6 FA8bit0_FA4_0_1_FA2_N00069 $G_DPWR
+  $G_DGND 74HC08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA8bit0_FA4_0_1_FA2_HA1_U3A         B6 A6 FA8bit0_FA4_0_1_FA2_N00105 $G_DPWR
+  $G_DGND 74HC386 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA8bit0_FA4_0_1_FA2_HA1_1_U2A         FA8bit0_FA4_0_1_N00370
+  FA8bit0_FA4_0_1_FA2_N00105 FA8bit0_FA4_0_1_FA2_N00064 $G_DPWR $G_DGND 74HC08
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA8bit0_FA4_0_1_FA2_HA1_1_U3A         FA8bit0_FA4_0_1_FA2_N00105
+  FA8bit0_FA4_0_1_N00370 S6 $G_DPWR $G_DGND 74HC386 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA8bit0_FA4_0_1_FA2_U1A         FA8bit0_FA4_0_1_FA2_N00064
+  FA8bit0_FA4_0_1_FA2_N00069 FA8bit0_FA4_0_1_N00432 $G_DPWR $G_DGND 74HC32
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA8bit0_FA4_0_1_FA3_HA1_U2A         A7 B7 FA8bit0_FA4_0_1_FA3_N00069 $G_DPWR
+  $G_DGND 74HC08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA8bit0_FA4_0_1_FA3_HA1_U3A         B7 A7 FA8bit0_FA4_0_1_FA3_N00105 $G_DPWR
+  $G_DGND 74HC386 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA8bit0_FA4_0_1_FA3_HA1_1_U2A         FA8bit0_FA4_0_1_N00432
+  FA8bit0_FA4_0_1_FA3_N00105 FA8bit0_FA4_0_1_FA3_N00064 $G_DPWR $G_DGND 74HC08
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA8bit0_FA4_0_1_FA3_HA1_1_U3A         FA8bit0_FA4_0_1_FA3_N00105
+  FA8bit0_FA4_0_1_N00432 S7 $G_DPWR $G_DGND 74HC386 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA8bit0_FA4_0_1_FA3_U1A         FA8bit0_FA4_0_1_FA3_N00064
+  FA8bit0_FA4_0_1_FA3_N00069 N03832 $G_DPWR $G_DGND 74HC32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_FA8bit0_FA4_0_1_U2A         N03832 FA8bit0_FA4_0_1_N00432 N03841 $G_DPWR
+  $G_DGND 74HC386 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM6         STIM(8,0) $G_DPWR $G_DGND A7 A6 A5 A4 A3 A2 A1 A0 IO_STM
+  STIMULUS=StimA
U_DSTM7         STIM(8,0) $G_DPWR $G_DGND B7 B6 B5 B4 B3 B2 B1 B0 IO_STM
+  STIMULUS=StimB
