* source GATEDOSCILLATOR
C_C1         0 N00956  1n  
R_R1         N00956 N000170  1k  
U_DSTM3         STIM(1,1)
+ $G_DPWR $G_DGND
+ N01004 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 10us 1  
+ 20us 0  
+ 30us 0 
+ 40us 1  
+ 50us 1  
+ 60us 0  
+ 70us 0  
+ 80us 1  
+ 100us 1  
+ 110us 1  
+ 120us 0 
+ 130us 1 
+ 140us 0 
+ 150us 0 
X_GO0_U1A         N000170 N01004 GO0_N00142 $G_DPWR $G_DGND 74HC132 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_GO0_U2         GO0_N00142 $D_HI $D_HI $D_HI $D_HI N00981 M_UN0001 M_UN0002
+  M_UN0003 M_UN0004 M_UN0005 M_UN0006 $G_DPWR $G_DGND 74HC114 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_GO0_U1B         N00956 N00956 N000170 $G_DPWR $G_DGND 74HC132 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
