* source GRAYCOUNTER
U_DSTM2         STIM(1,1) $G_DPWR $G_DGND N020670 IO_STM IO_LEVEL=0 
+ 0 0
+ +0 1
+REPEAT FOREVER
+ +.5uS 0
+  +.5uS 1
+ ENDREPEAT
X_Gray_U5C         N02359 N02364 Gray_N009692 $G_DPWR $G_DGND 74HC386 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Gray_U5D         Gray_N009692 Gray_N00318 Gray_JD $G_DPWR $G_DGND 74HC386
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Gray_U2A         N020670 $D_HI Gray_JC Gray_KC N02369 Gray_N00318 $G_DPWR
+  $G_DGND 74HC73 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Gray_U7A         N02359 N02364 Gray_N009742 $G_DPWR $G_DGND 74HC386 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Gray_U2B         N020670 $D_HI Gray_JD Gray_KD N02374 Gray_N00325 $G_DPWR
+  $G_DGND 74HC73 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Gray_U7B         Gray_N009742 N02369 Gray_KD $G_DPWR $G_DGND 74HC386 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Gray_U5B         N02359 N02364 Gray_N00756 $G_DPWR $G_DGND 74HC386 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Gray_U6B         Gray_N00756 N02374 Gray_KC $G_DPWR $G_DGND 74HC08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Gray_U1B         N020670 $D_HI Gray_JB Gray_KB N02364 Gray_N00311 $G_DPWR
+  $G_DGND 74HC73 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Gray_U3C         Gray_N00304 N02369 Gray_N00325 Gray_JB $G_DPWR $G_DGND
+  74HC11 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Gray_U4A         N02359 N02369 Gray_N00325 Gray_KB $G_DPWR $G_DGND 74HC11
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Gray_U1A         N020670 $D_HI Gray_JA Gray_KA N02359 Gray_N00304 $G_DPWR
+  $G_DGND 74HC73 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Gray_U3A         N02364 Gray_N00318 Gray_N00325 Gray_JA $G_DPWR $G_DGND
+  74HC11 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Gray_U3B         Gray_N00311 Gray_N00318 Gray_N00325 Gray_KA $G_DPWR $G_DGND
+  74HC11 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Gray_U5A         Gray_N00304 N02364 Gray_N00677 $G_DPWR $G_DGND 74HC386
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Gray_U6A         Gray_N00677 N02374 Gray_JC $G_DPWR $G_DGND 74HC08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
