* source JOHNSONCOUNTER
X_U1A         $D_HI N00031 N00149 $D_HI N00015 M_UN0001 $G_DPWR $G_DGND 74HC74
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         $D_HI N00015 N00149 $D_HI N00020 M_UN0002 $G_DPWR $G_DGND 74HC74
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         $D_HI N00020 N00149 $D_HI N00025 M_UN0003 $G_DPWR $G_DGND 74HC74
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2B         $D_HI N00025 N00149 $D_HI M_UN0004 N00031 $G_DPWR $G_DGND 74HC74
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N00149 IO_STM IO_LEVEL=0 
+ 0 0
+ +0 1
+REPEAT FOREVER
+ +.5uS 0
+  +.5uS 1
+ ENDREPEAT
