* source ODDPARITYCHECKER
X_PC_01_U2A         N00020 N00023 PC_01_N00335 $G_DPWR $G_DGND 74HC7266 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_PC_01_U1A         N00020 N00023 PC_01_N00050 $G_DPWR $G_DGND 74HC386 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_PC_01_U1B         PC_01_N00050 N00027 PC_01_N00073 $G_DPWR $G_DGND 74HC386
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_PC_01_U1C         PC_01_N00073 N00193 N00215 $G_DPWR $G_DGND 74HC386 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_PC_01_U2B         PC_01_N00335 N00027 PC_01_N00375 $G_DPWR $G_DGND 74HC7266
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_PC_01_U2C         PC_01_N00375 N00193 N00220 $G_DPWR $G_DGND 74HC7266 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM1         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00020 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 10us 1  
+ 15us 0  
+ 40us 1 
+ 70us 0  
U_DSTM2         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00023 
+ IO_STM
+ IO_LEVEL=0
+  0s 1  
+ 30us 0  
+ 45us 1  
+ 80us 0 
+ 100us 1  
U_DSTM3         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00027 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 50us 1  
+ 80us 0  
U_DSTM4         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00193 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 200us 1  
