* source 74HC148
U_DSTM3         STIM(1,1) $G_DPWR $G_DGND N32828 IO_STM IO_LEVEL=0 
+ 0 0
+ +2us 1
+REPEAT FOREVER
+ +5uS 0
+  +5uS 1
+ ENDREPEAT
X_U5         $D_HI $D_HI $D_HI $D_HI $D_HI $D_HI $D_HI $D_HI $D_LO N31009
+  N31017 N31029 N31058 N30660 $G_DPWR $G_DGND 74HC148 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U6         $D_HI $D_HI $D_HI $D_HI $D_HI $D_HI $D_HI N32828 N30660 N30991
+  N31023 N31035 N31052 EO $G_DPWR $G_DGND 74HC148 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         N31009 N30991 A0 $G_DPWR $G_DGND 74HC08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3B         N31017 N31023 A1 $G_DPWR $G_DGND 74HC08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3C         N31029 N31035 A2 $G_DPWR $G_DGND 74HC08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3D         N31058 N31052 GS $G_DPWR $G_DGND 74HC08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4A         N30660 A3 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
